US09326973B2
To a cold (0-5° C.) stirred solution of (S)-2-((R)-2-hydroxy-1-phenylethylamino)-2-(1-methylcyclopropyl)acetonitrile (1.1 g, 4.78 mmol) in MeOH (20 mL) and DCM (20 mL) was added lead tetraacetate (2.75 g, 6.21 mmol) in 5 portions. The reaction mixture was stirred at 0° C. for 10 min and then stirred at rt for 50 min. The reaction was quenched by addition of 20 ml of satd. NaHCO3 and the solid was filtered. The filtrate was extracted with DCM (4×). The combined extracts were washed with NaHCO3, brine, dried (MgSO4), and removed the solvent to afford an oil which was refluxed in 20 ml of concentrated HCl for 20 h and cooled down. The clear top solution was decanted into another flask and concentrated to dryness to afford a white solid which was dissolved in 20 ml of MeOH and treated with TEA (1.997 mL, 14.33 mmol). The mixture was cooled in ice water, and BOC2O (2.085 g, 9.55 mmol) was added in 5 portions. The reaction mixture was stirred at rt overnight (20 h). The solvent was removed and the residue was partitioned with 10 ml of 1 N NaOH and EtOAc/hexane (˜1:5). The aqueous phase was acidified with ice cold 2 N HCl to adjust pH ˜2, then extracted with EtOAc (3×). The combined extracts were washed with brine (2×), dried (MgSO4). The solvent was removed to afford (S)-2-(tert-butoxycarbonylamino)-2-(1-methylcyclopropyl)acetic acid as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ 5.18 (br. S., 1H), 3.76 (br. S., 1H), 1.47 (s, 9H), 1.09 (s, 3H), 0.91-0.77 (m, 1H), 0.75-0.67 (m, 1H), 0.52-0.44 (m, 1H), 0.44-0.35 (m, 1H); [α]D=80.95.

reactant | (S)-2-((R)-2-hydroxy-1-phenylethylamino)-2-(1-methylcyclopropyl)acetonitrile | 4.78 mmol, 1.1 g | OC[C@@H](C1=CC=CC=C1)N[C@H](C#N)C1(CC1)C | C14H18N2O
reactant | lead tetraacetate | 6.21 mmol, 2.75 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | BOC2O | 9.55 mmol, 2.085 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 20 mL | CO | CH4O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | 20 ml | Cl | ClH
solvent | MeOH | 20 ml | CO | CH4O
product | (S)-2-(tert-butoxycarbonylamino)-2-(1-methylcyclopropyl)acetic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C1(CC1)C | C11H19NO4
